US09169271B2
N-[[(3S,4S)-3-(5-Acetamido-2-fluoro-phenyl)-4-fluoro-4-(hydroxymethyl)tetrahydrofuran-3-yl]carbamothioyl]benzamide
Scheme 2, step I, (deprotection and thiourea formation): A solution of tert-butyl N-[(3S,4S)-3-(5-acetamido-2-fluoro-phenyl)-4-fluoro-4-(hydroxymethyl)tetrahydrofuran-3-yl]carbamate (2.70 g, 6.99 mmol) in dichloromethane (40 mL) and trifluoroacetic acid (8.00 mL, 106 mmol) is stirred at ambient temperature for 150 minutes. The reaction is concentrated under reduced pressure and azeotroped with toluene. The residue is dissolved in tetrahydrofuran and treated with triethylamine (1.10 mL, 7.89 mmol) and benzoyl isothiocyanate (1.00 mL, 7.41 mmol). The reaction is stirred at ambient temperature for 16.5 hours and is then quenched with a solution of saturated sodium bicarbonate in water, extracted with ethyl acetate and dichloromethane consecutively. The organic layers are combined, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to give a residue. The residue is purified by silica gel flash chromatography, eluting with methanol/dichloromethane (0:10) to methanol/dichloromethane (1:10) to give the title compound (2.60 g, 83%). ES/MS (m/e): 450 (M+1).

reactant | thiourea | NC(=S)N | CH4N2S
reactant | tert-butyl N-[(3S,4S)-3-(5-acetamido-2-fluoro-phenyl)-4-fluoro-4-(hydroxymethyl)tetrahydrofuran-3-yl]carbamate | 6.99 mmol, 2.70 g | C(C)(=O)NC=1C=CC(=C(C1)[C@@]1(COC[C@]1(CO)F)NC(OC(C)(C)C)=O)F | C18H24F2N2O5
reactant | trifluoroacetic acid | 106 mmol, 8.00 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 7.89 mmol, 1.10 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl isothiocyanate | 7.41 mmol, 1.00 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | N-[[(3S,4S)-3-(5-Acetamido-2-fluoro-phenyl)-4-fluoro-4-(hydroxymethyl)tetrahydrofuran-3-yl]carbamothioyl]benzamide | 2.60 g, 83% | C(C)(=O)NC=1C=CC(=C(C1)[C@@]1(COC[C@]1(CO)F)NC(=S)NC(C1=CC=CC=C1)=O)F | C21H21F2N3O4S
